2122-02-14 07:01:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
   --Patient slept well overnight, no events
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-14**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 86 (86 - 106) bpm
   BP: 100/65(72) {100/65(72) - 124/82(92)} mmHg
   RR: 21 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    429 mL
                                                                    590 mL
   PO:
             TF:
   IVF:
                                                                    429 mL
                                                                    590 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    520 mL
   Urine:
                                                                    600 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -171 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   12.5 g/dL
   128 mg/dL
   0.3 mg/dL
   39 mEq/L
   3.3 mEq/L
   6 mg/dL
   87 mEq/L
   130 mEq/L
   40.3 %
   31.3 K/uL
        [image002.jpg]
                             [**2122-2-14**]  04:15 AM
   WBC
   31.3
   Hct
   40.3
   Plt
   217
   Cr
   0.3
   Glucose
   128
   Other labs: ALT / AST:212/131, Alk Phos / T Bili:438/20.1, Amylase /
   Lipase:48/57, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:2.0 %, Eos:0.0 %, Albumin:2.6 g/dL, LDH:203 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR [**2121-2-13**]
   Stable opacification of the left lower and mid lung, attributed to the
   patient's known pleural metastatic disease. Interval patchy opacities
   noted
   at the left lung apex could represent pneumonia versus progression of
   metastatic disease. Correlation with clinical history and possible CT
   of the
   chest may be helpful in further evaluation.
   Microbiology: [**2122-2-13**] 9:56 pm SPUTUM     Site: EXPECTORATED
      GRAM STAIN (Final [**2122-2-14**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
   Assessment and Plan
   Assessment and Plan
   This is a  46-year-old lady with Malignant Thymoma admitted to [**Hospital Unit Name 44**] for
   shortness of breath, fatigue, and possible pneumonia.
   .
   SHORTNESS OF BREATH:  Most likely due to progression of cancer, though
   pneumonia or other infection must be excluded.  CXR mentions patchy
   opacities at left lung apex, which are new from prior.  Factors arguing
   for infection include elevated WBC (with increased neutrophils),
   low-grade temp in ED (99), and productive cough.  However, lack of
   bandemia and chronic nature of cough (months) go against diagnosis of
   pneumonia.  Patient's symptoms might all be related to underlying
   disease progression.
   .
   --Send urine, sputum, and blood cultures
   --Treat with 5 days of Levaquin at 750mg QD
   --02 per nasal cannula as needed
   --Albuterol/ipratropium nebs
   --Cough Suppressants
   --Heme/onc consult in AM for evaluation of worsening disease
   --Consider CT chest to evaluate disease progression
   --Consider therapeutic thoracentesis if symptoms worsen
   .
   LEUKOCYTOSIS:  Patient has had elevated WBC in the past, and has been
   slowly rising over the past few months.  Etiologies include worsening
   cancer, malignant pleural effusions, infection, or steroids.
   .
   --Treat empirically for pneumonia
   --Continue to trend white count, fever curve
   --Look at white cells under microscope to evaluate for inflammatory vs.
   malignant process
   .
   HYPONATREMIC:  Drop in sodium from [**Month (only) 594**] to this admission.  Sodium
   is currently 130.  Could be due to worsening lung disease causing an
   SIADH like picture.  PNA has also been known to cause hyponatremia.
   .
   --Free water restrict
   --Gentle NS for volume rescucitation
   --Send plasma osmolality and urine lytes
   --Continue to monitor
   .
   ELEVATED LFTS:  No prior mention of elevated LFTs in patient's history;
   last liver enzymes were checked in [**Month (only) 1996**] of this year and were
   completely normal.  Elevated LFTs likely represent obstructive picture
   from metastatic cancer, with impairment of synthetic function as well
   (i.e. elevated INR)
   .
   --Right upper quadrant ultrasound
   --Consider lactulose re: high ammonia
   --Continue to trend LFTs
   --Consider hepatitis serologies
   .
   MALIGNANT THYMOMA:  Patient had beeen offered hospice in the past,
   though now wants further treatment.  We will defer managment of
   malignancy to heme/onc team.  Consult heme/onc tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-13**] 08:43 PM
   20 Gauge - [**2122-2-13**] 08:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:  ICU for now, possible call-out to floor

2122-02-14 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   States to feel improved, less dyspneic, less cough.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-2-14**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (96.9
   HR: 95 (86 - 106) bpm
   BP: 93/59(67) {93/59(67) - 124/82(92)} mmHg
   RR: 25 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    429 mL
                                                                    771 mL
   PO:
             180 mL
   TF:
   IVF:
                                                                    429 mL
                                                                    591 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    520 mL
   Urine:
                                                                    600 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -171 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Bells' Palsy right
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal, Left Bell's Palsy
   Labs / Radiology
   12.5 g/dL
   217 K/uL
   128 mg/dL
   0.3 mg/dL
   39 mEq/L
   3.3 mEq/L
   6 mg/dL
   87 mEq/L
   130 mEq/L
   40.3 %
   31.3 K/uL
        [image002.jpg]
                             [**2122-2-14**]  04:15 AM
   WBC
   31.3
   Hct
   40.3
   Plt
   217
   Cr
   0.3
   Glucose
   128
   Other labs: ALT / AST:212/131, Alk Phos / T Bili:438/20.1, Amylase /
   Lipase:48/57, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:2.0 %, Eos:0.0 %, Albumin:2.6 g/dL, LDH:203 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   46 yof myasthenia [**Last Name (un) 3383**] and malignant thymoma, now with respiratory
   distress attributed to pneumonia or progression of malignancy.
   RESPIRATORY DISTRESS -- attributed to pulmonary infiltrate, likely
   pneumonia LUL, although cannot exclude progression  of underlying
   thymoma.  Underlying extensive disease of left lung.
   PULMONARY INFILTRATE -- possibilities include progression of underlying
   left chest thymoma, or superimposed infection (pneumonia).  Doubt
   opportunistic infection as infiltrate unilateral, although at risk
   (chronic steroids).
   HYPONATREMIA -- related to malignancy (SIADH) and medications.  [**Month (only) 60**] be
   component of polydipsia.  Plan await serum and urine osmolality, and
   continue fluid restriction.
   JAUNDICE -- LFT abnormalities may represent disease progression or
   medication effect.  Consider cholecystitis.
   HYPOKALEMIA -- replete to K>4.0
   THYMOMA -- no therapeutic options available.  Heme/Onc service to
   evaluate, and to discuss direction of further care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-13**] 08:43 PM
   20 Gauge - [**2122-2-13**] 08:43 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-02-15 08:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2122-2-14**] 03:20 PM
   transported to US for Right upper quadrant US
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2122-2-14**] 10:05 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2122-2-14**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2122-2-14**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-2-15**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 94 (91 - 114) bpm
   BP: 107/71(80) {93/53(65) - 117/78(90)} mmHg
   RR: 17 (14 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,885 mL
                                                                    199 mL
   PO:
                                                                  1,360 mL
             TF:
   IVF:
                                                                  1,525 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    400 mL
   Urine:
                                                                  2,020 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    865 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///36/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   12.5 g/dL
   122 mg/dL
   0.3 mg/dL
   36 mEq/L
   3.6 mEq/L
   8 mg/dL
   94 mEq/L
   135 mEq/L
   40.3 %
   31.7 K/uL
        [image002.jpg]
                             [**2122-2-14**]  04:15 AM
                             [**2122-2-15**]  06:03 AM
   WBC
   31.3
   31.7
   Hct
   40.3
   40.3
   Plt
   217
   244
   Cr
   0.3
   0.3
   Glucose
   128
   122
   Other labs: ALT / AST:212/131, Alk Phos / T Bili:438/20.6, Amylase /
   Lipase:48/57, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:2.0 %, Eos:0.0 %, Albumin:2.6 g/dL, LDH:203 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   This is a  46-year-old lady with Malignant Thymoma admitted to [**Hospital Unit Name 44**] for
   shortness of breath, fatigue, and possible pneumonia.
   .
   BACTEREMIA:  Listeria identified as a cause, common in immunosupressed
   hosts such as Ms [**Known lastname **].  First line is ampillin, though pt is allergic.
   Will consult ID re: treatment, need for lP, monitoring.
   - NO raw dairy
   .
   SHORTNESS OF BREATH:  Most likely due to a combination of progression
   of cancer with an obstructive-pneumonia picture.  Chronicity of problem
   points toward spread of underlying disease, while high white count and
   low-grade temperatures indicate a co-current infection.
   --BCX reveals listeria, if this is source for below manifestions, above
   is more likely disease progression
   --Treat with 5 days of Levaquin at 750mg QD, with day #1 being [**2122-2-13**]
   will reassess given bacteremia
   --02 per nasal cannula as needed
   --Albuterol/ipratropium nebs
   --Cough Suppressants
   --Heme/onc consult for evaluation of worsening disease
 Primary
   oncologist to see her monday
   -- CT chest to evaluate disease progression
   .
   LEUKOCYTOSIS:  Most likely bacteremia causing gross elevation at this
   point.  Patient has had elevated WBC in the past, and has been slowly
   rising over the past few months.  Contributing etiologies include
   worsening cancer, malignant pleural effusions, infection, or steroids.
   .
   --Treat empirically for pneumonia, optimize treatment for listeria
   --Continue to trend white count, fever curve
   .
   HYPONATREMIC:  Drop in sodium from [**Month (only) 594**] to this admission.  Sodium
   is currently 135  after normal saline.  Seems to be appropriate ADH.
   Could be due to worsening lung disease causing an SIADH like picture.
   PNA has also been known to cause hyponatremia.
   .
   -- NS bolus prn
   .
   ELEVATED LFTS:  No prior mention of elevated LFTs in patient's history;
   last liver enzymes were checked in [**Month (only) 1996**] of this year and were
   completely normal.  Elevated LFTs likely represent obstructive picture
   from metastatic cancer, with impairment of synthetic function as well
   (i.e. elevated INR)
   .
   --Right upper quadrant ultrasound (-)
   --CT today to evaluate billiary tree
   --Consider lactulose re: high ammonia if patient becomes
   encephalopathic (after LP to r/o meningoencephalitis from listeria)
   --Continue to trend LFTs
   .
   MALIGNANT THYMOMA:  Patient had beeen offered hospice in the past,
   though now wants further treatment.  We will defer managment of
   malignancy to heme/onc team.  Consult heme/onc today for coordination
   of further management.
   CODE STATUS:  Patient needs to define code status, ideally with the
   input of her primary providers
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-13**] 08:43 PM
   20 Gauge - [**2122-2-13**] 08:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-02-15 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   States to feel somewhat improved.
   Denies abd pain.
   Seeks reassurance that cancer is not contributing to her overall
   decline in health.
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2122-2-15**] 09:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-2-14**] 08:30 PM
   Famotidine (Pepcid) - [**2122-2-15**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-2-15**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 109 (89 - 114) bpm
   BP: 106/70(76) {98/53(65) - 117/78(90)} mmHg
   RR: 24 (14 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,885 mL
                                                                    475 mL
   PO:
                                                                  1,360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,525 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    600 mL
   Urine:
                                                                  2,020 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    865 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///36/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: , No(t)
   Wheezes : , Diminished: left, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   244 K/uL
   122 mg/dL
   0.3 mg/dL
   36 mEq/L
   3.6 mEq/L
   8 mg/dL
   94 mEq/L
   135 mEq/L
   40.3 %
   31.7 K/uL
        [image002.jpg]
                             [**2122-2-14**]  04:15 AM
                             [**2122-2-15**]  06:03 AM
   WBC
   31.3
   31.7
   Hct
   40.3
   40.3
   Plt
   217
   244
   Cr
   0.3
   0.3
   Glucose
   128
   122
   Other labs: ALT / AST:212/131, Alk Phos / T Bili:438/20.6, Amylase /
   Lipase:48/57, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:2.0 %, Eos:0.0 %, Albumin:2.6 g/dL, LDH:203 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   46 yof myasthenia [**Last Name (un) 3383**] and malignant thymoma, now with respiratory
   distress attributed to pneumonia or progression of malignancy.
   RESPIRATORY DISTRESS -- attributed to pulmonary infiltrate, likely
   pneumonia LUL, although cannot exclude progression  of underlying
   thymoma.  Underlying extensive disease of left lung.
   PULMONARY INFILTRATE -- possibilities include progression of underlying
   left chest thymoma, or superimposed infection (pneumonia).  Doubt
   opportunistic infection as infiltrate unilateral, although at risk
   (chronic steroids).
   BACTEREMIA -- Listeria isolated.  Possibly related to dietary practices
   or recent animal exposure.  Continue targeted antimicrobials.  Consider
   ID consultation to assist in treatment and further evaluation.
   HYPONATREMIA -- related to malignancy (SIADH) and medications.  [**Month (only) 60**] be
   component of polydipsia.  Plan await serum and urine osmolality, and
   continue fluid restriction.
   JAUNDICE -- LFT abnormalities may represent disease progression or
   medication effect.  No evidence for acute cholecystitis.  Plan for
   abdominal-pelvic CT to assess (?related to cancer).
   HYPOKALEMIA -- replete to K>4.0
   HEMMOROIDS -- bleeding --> local care.
   THYMOMA -- no therapeutic options available.  Heme/Onc service to
   evaluate, and to discuss direction of further care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-13**] 08:43 PM
   20 Gauge - [**2122-2-13**] 08:43 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes